US06482829B2
2-[8-(3,5-Bis-trifluoromethyl-benzoyl)-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl]-N,N-dimethyl-acetamide
The title compound, MS: m/e=557.2 (M+H+), was prepared in accordance with the general method of example 4 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and 2-chlor-N,N-dimethyacetamide in 1,2-dimethoxyethane as solvent.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O2
solvent | 2-chlor-N,N-dimethyacetamide | ClCC(=O)N(C)C | C4H8ClNO
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 2-[8-(3,5-Bis-trifluoromethyl-benzoyl)-4-oxo-1-phenyl-1,3,8-triaza-spiro[4.5]dec-3-yl]-N,N-dimethyl-acetamide | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=CC=CC=C3)CC(=O)N(C)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C26H26F6N4O3
